US09193693B2
A solution of methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (150 mg, 0.44 mmol, 1.00 equiv) and piperazine (77.4 mg, 0.90 mmol, 2.00 equiv) in DMSO (8 mL) was placed in a 20-mL sealed tube, stirred for 3 hrs at 125° C. in an oil bath, and then quenched by the addition of 50 mL of water. The resulting solution was extracted with 6×50 mL of dichloromethane, the organic layers combined and dried over anhydrous sodium sulfate, and the solution filtered to remove solids. Concentration under vacuum yielded 160 mg (91%) of methyl 2-phenyl-3-(piperazin-1-yl)quinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.44 mmol, 150 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | piperazine | 0.90 mmol, 77.4 mg, 2.00 equiv | N1CCNCC1 | C4H10N2
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
product | methyl 2-phenyl-3-(piperazin-1-yl)quinoxaline-6-carboxylate | 160 mg, 91% | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCNCC1)C(=O)OC | C20H20N4O2
